US04238493
(b)(i) A solution of sodium methoxide (sodium (0.3 g, 0.013 mol) in methanol (10 ml)) was added dropwise, over a period of 10 minutes to a stirred mixture of 1-nitro-2-methylthio-2-methylsulphinylethylene (2 g, 0.011 mol) and 2-bromoethylamine hydrobromide (2.7 g, 0.013 mol) in methanol (25 ml), cooled to 0°. The solution was stirred at 0° for a further 15 minutes, and then it was allowed to attain room temperature. After 1 hour, the solvent was removed in vacuo, and the semi-solid residue was extracted with hot chloroform (2×25 ml). The extracts were combined and concentrated in vacuo. The solid residue was recrystallised from propan-2-ol to give 1-nitro-2-methylthio-2-(2-bromo-ethylamino)ethylene (1.85 g, 71%) m.p. 123°14 126°.

reactant | sodium methoxide | 0.013 mol, 10 ml, 0.3 g | C[O-].[Na+]
reactant | 1-nitro-2-methylthio-2-methylsulphinylethylene | 0.011 mol, 2 g | [N+](=O)([O-])C=C(S(=O)C)SC | C4H7NO3S2
reactant | 2-bromoethylamine hydrobromide | 0.013 mol, 2.7 g | Br.BrCCN
solvent | methanol | 25 ml | CO | CH4O
product | 1-nitro-2-methylthio-2-(2-bromo-ethylamino)ethylene | 1.85 g, 71% | [N+](=O)([O-])C=C(NCCBr)SC | C5H9BrN2O2S
